US07371772B2
(−)-(4-(((1-Propylimidazol-5-yl)methyl)sulfinyl)aniline di-p-toluoyl-D-tartarate monohydrate (770 mg) was dissolved in ethyl acetate (5 ml) and 1N hydrochloric acid (3.91 ml), followed by separation. To the aqueous layer was added an aqueous 25% potassium carbonate solution (3.92 ml), followed by extraction with 2-propanol-ethyl acetate (1:4) three times. The organic layers were combined and washed with saturated brine, dried with magnesium sulfate, and the solvent was distilled off under reduced pressure. To the resulting residue was added tetrahydrofuran, after which the solvent was distilled off again under reduced pressure to give (−)-(4-(((1-propylimidazol-5-yl)methyl)sulfinyl)aniline. Then, to a solution of 8-(4-(2-butoxyethoxy)phenyl)-1-(2-methyl-2-propen-1-yl)-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxylic acid (400 mg) in tetrahydrofuran (10 ml) were added a drop of DMF, and then thionyl chloride (0.084 ml), and the mixture was stirred under nitrogen atmosphere for 30 minutes. The resulting solution was added dropwise to a solution of (−)-(4-(((1-propylimidazol-5-yl)methyl)sulfinyl)aniline and triethylamine (1.61 ml) in tetrahydrofuran (10 ml) at 0° C. under nitrogen atmosphere. The mixture was returned to room temperature and stirred for 3 hours, after which water was added and the mixture was extracted with ethyl acetate. The organic layer was washed with 10% aqueous acetic acid solution twice, with aqueous saturated sodium bicarbonate solution twice, and with saturated brine once, after which the resultant was dried with magnesium sulfate. After distilling off the solvent under reduced pressure, the resultant was separated and purified with a basic silica gel column chromatography (hexane:ethyl acetate=1:1→ethyl acetate) to give (−)-8-[4-(2-butoxyethoxy)phenyl]-1-(2-methyl-2-propen-1-yl)-N-[4-[[[1-propylimidazol-5-yl]methyl]sulfinyl]phenyl]-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxamide (316 mg) (Compound 23) as a yellow amorphous material.

reactant | 4-(((1-Propylimidazol-5-yl)methyl)sulfinyl)aniline di-p-toluoyl-D-tartarate monohydrate | 770 mg | O.C1(=CC=C(C=C1)C(=O)[C@@]([C@@](C(=O)O)(O)C(=O)C1=CC=C(C=C1)C)(O)C(=O)O)C.C(CC)N1C=NC=C1CS(=O)C1=CC=C(N)C=C1
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 4-(((1-propylimidazol-5-yl)methyl)sulfinyl)aniline | C(CC)N1C=NC=C1CS(=O)C1=CC=C(N)C=C1 | C13H17N3OS
